US08486967B2
b) [8-(2-Chloro-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine
Prepared in analogy to example 66c employing (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine and 2-chloro-5-(trifluoromethyl)-phenyl boronic acid. The title compound was obtained as light yellow foam.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | BrC=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C2=NC(=NS2)C | C14H16BrN7S
reactant | 2-chloro-5-(trifluoromethyl)-phenyl boronic acid | ClC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C7H5BClF3O2
product | [8-(2-Chloro-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | ClC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C2=NC(=NS2)C | C21H19ClF3N7S
